US05478924
1-Methyl-4-(hydroxymethyl)-2,6,7-trioxabicyclo[2.2.2]octane (MHTBO, compound 2)
Pentaerythritol (13.6 g, 0.1 mol), triethyl orthoacetate (16.22 g, 0.1 mol, 18.3 mL), pyridine p-toluenesulfonate (PPTS) (0.5 g, 2 mmol) and 100 mL of dioctyl phthalate were mixed in a 250 mL, round-bottom flask fitted with a regular distillation apparatus. The mixture was heated to 130°-140° C. and ethanol was slowly distilled. When the amount of ethanol was close to the theoretical value the pressure was reduced to <0.1 torr and the product was distilled in vacuo. The white product which distilled crystallized in the condenser to give 13.6-14.9 g of MHTBO. Yield: 85-93%. The compound can be recrystallized from toluene but can be used directly. Mp: 110°-112° C.

reactant | Pentaerythritol | 0.1 mol, 13.6 g | OCC(CO)(CO)CO | C5H12O4
reactant | triethyl orthoacetate | 0.1 mol, 18.3 mL, 16.22 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | pyridine p-toluenesulfonate | 2 mmol, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
solvent | dioctyl phthalate | 100 mL | C(C=1C(C(=O)OCCCCCCCC)=CC=CC1)(=O)OCCCCCCCC | C24H38O4
product | 1-Methyl-4-(hydroxymethyl)-2,6,7-trioxabicyclo[2.2.2]octane | Yield: 85-93% | CC12OCC(CO1)(CO2)CO | C7H12O4
